US07906546B2
To a stirred solution of 10 g (0.032 mol) of benzenesulfonyl-(3-oxo-cyclohexyl)-acetic acid methyl ester in 110 mL of DMF at 0° C., 1.42 g (0.035 mol, 1.1 eq) of NaH (60%) were added. The reaction mixture was stirred at this temperature for one hour, and 15.71 g (0.048 mol, 1.5 eq) of N-fluorobenzenesulfonimide were added. After 2 hours at RT, the reaction mixture was poured into water and extracted with EtOAc. The combined organic phases were dried over Na2SO4, filtered and evaporated. The resulting two diastereomers were separated by column chromatography on silica gel with heptane/EtOAc 2:1, yielding 3.06 g (27%) of (RS,SR)-benzenesulfonyl-fluoro-(3-oxo-cyclohexyl)-acetic acid methyl ester as a white solid, MS: 329 (MH+) and 3.2 g (28%) of (RR,SS)-benzenesulfonyl-fluoro-(3-oxo-cyclohexyl)-acetic acid methyl ester as a white solid, MS: 329 (MH+).

reactant | benzenesulfonyl-(3-oxo-cyclohexyl)-acetic acid methyl ester | 0.032 mol, 10 g | COC(C(C1CC(CCC1)=O)S(=O)(=O)C1=CC=CC=C1)=O | C15H18O5S
reactant | NaH | 0.035 mol, 1.42 g, 1.1 eq | [H-].[Na+]
reactant | N-fluorobenzenesulfonimide | 0.048 mol, 15.71 g, 1.5 eq | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | water | O | H2O
solvent | DMF | 110 mL | CN(C)C=O | C3H7NO
product | (RS,SR)-benzenesulfonyl-fluoro-(3-oxo-cyclohexyl)-acetic acid methyl ester | 3.06 g, 27% | COC(C(C1CC(CCC1)=O)(F)S(=O)(=O)C1=CC=CC=C1)=O | C15H17FO5S
